US08685969B2
4. 6-Fluoro-2-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)isoindolin-1-one
A mixture of 2-(3-bromo-2-methylphenyl)-6-fluoroisoindolin-1-one (1.367 g, 4.27 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.301 g, 5.12 mmol), potassium acetate (0.838 g, 8.54 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with CH2Cl2 (0.105 g, 0.128 mmol) in dioxane (30 mL) and DMSO (6 mL) was degassed with nitrogen and heated in equal portions in two sealed vials at 90° C. overnight. The mixtures were cooled to room temperature and combined, diluted with CH2Cl2 and washed with water. The aqueous phase was extracted twice with CH2Cl2, and the combined organic phases were dried and concentrated. The residue was purified by column chromatography on silica gel (52 g) eluting with EtOAc-hexane (gradient from 0:100 to 50:50) to provide the desired product as a white solid (1.35 g, 86% yield). LCMS (M+H)+ m/z 368.1.

reactant | 2-(3-bromo-2-methylphenyl)-6-fluoroisoindolin-1-one | 4.27 mmol, 1.367 g | BrC=1C(=C(C=CC1)N1C(C2=CC(=CC=C2C1)F)=O)C | C15H11BrFNO
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 5.12 mmol, 1.301 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 8.54 mmol, 0.838 g | C(C)(=O)[O-].[K+]
reactant | CH2Cl2 | 0.128 mmol, 0.105 g | C(Cl)Cl | CH2Cl2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-Fluoro-2-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)isoindolin-1-one | 1.35 g, 86% yield | FC1=CC=C2CN(C(C2=C1)=O)C1=C(C(=CC=C1)B1OC(C(O1)(C)C)(C)C)C | C21H23BFNO3
